US07122545B2
0.50 g 4-Methoxy-7-morpholin-4-yl-benzothiazole-2-carbonitrile and 5.46 ml triethylamine in 13 ml pyridine were stirred for 4 hours with about 5 ml hydrogen sulfide at room temperature. Solvent and excess hydrogen sulfide were removed and the residue chromatographed on siligagel with ethylacetate/heptane 1:1 to yield 0.49 g (87%) 4-methoxy-7-morpholin-4-yl-benzothiazole-2-carbothioic acid amide; M.p.: 238° C.; MS (ISP): m/e=310 (M+H+).

reactant | 4-Methoxy-7-morpholin-4-yl-benzothiazole-2-carbonitrile | 0.50 g | COC1=CC=C(C2=C1N=C(S2)C#N)N2CCOCC2 | C13H13N3O2S
reactant | triethylamine | 5.46 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen sulfide | about 5 ml | S | H2S
solvent | pyridine | 13 ml | N1=CC=CC=C1 | C5H5N
product | 4-methoxy-7-morpholin-4-yl-benzothiazole-2-carbothioic acid amide | 0.49 g, 87% | COC1=CC=C(C2=C1N=C(S2)C(N)=S)N2CCOCC2 | C13H15N3O2S2
